US05859159
Preparation of 1-Butene-1-Octene Copolymer
The polymerization was performed as in Example 29, except that 1-octene was fed directly to the reactor instead of 1-hexene. The process conditions employed are in Table 3. The Al:Zr mole ratio was about 1000:1 in Examples 29-31 and about 1150:1 in Examples 32-33.

reactant | 1-octene | C=CCCCCCC | C8H16
reactant | 1-hexene | C=CCCCC | C6H12
product | 1-Butene 1-Octene | C=CCC.C=CCCCCCC | InChI=1S/C8H16.C4H8/c1-3-5-7-8-6-4-2;1-3-4-2/h3H,1,4-8H2,2H3;3H,1,4H2,2H3
